US09315458B2
B) 4-[4-(bromomethyl)phenyl]-1-methyl-1H-1,2,3-triazole
To a solution of [4-(1-methyl-1H-1,2,3-triazol-4-yl)phenyl]methanol (3.40 g) in dichloromethane (130 mL) was added dropwise phosphorus tribromide (23.0 g) under ice-cooling, and the mixture was stirred at 20° C. for 16 hr. The reaction mixture was concentrated under reduced pressure, the residue was poured into saturated aqueous sodium bicarbonate solution, and the mixture was extracted with dichloromethane (×3). The combined organic layers were washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (3.50 g) as a mixture with phosphine oxide. This mixture was diluted with tert-butyl methyl ether, and the mixture was stirred at 20° C. for 16 hr. The precipitate was collected by filtration, and dried under reduced pressure to give the title compound (3.40 g).

reactant | [4-(1-methyl-1H-1,2,3-triazol-4-yl)phenyl]methanol | 3.40 g | CN1N=NC(=C1)C1=CC=C(C=C1)CO | C10H11N3O
reactant | phosphorus tribromide | 23.0 g | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | 4-[4-(bromomethyl)phenyl]-1-methyl-1H-1,2,3-triazole | 3.50 g | BrCC1=CC=C(C=C1)C=1N=NN(C1)C | C10H10BrN3
